US08580785B2
e) Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-2-methylsulfanyl-3a,7a-dihydro-benzothiazole-5-carboxylic acid cyclopropylmethyl-amide (T94.1.14)
See step f) of example H2 using 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-2-methylsulfanyl-3a,9a-dihydro-7-oxa-3-thia-1,5-diaza-cyclopenta[b]naphthalen-8-one as starting material and cyclopropanemethylamine. After overnight reaction and chromatography column purification, the expected product is obtained within 57%; LC/MS: 601/603 (M+1)+; m.p.: 221-223° C.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-2-methylsulfanyl-3a,9a-dihydro-7-oxa-3-thia-1,5-diaza-cyclopenta[b]naphthalen-8-one | ClC=1C2C(C=C3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)N=C(S2)SC | C19H10Cl2F3N5O2S2
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-2-methylsulfanyl-3a,7a-dihydro-benzothiazole-5-carboxylic acid cyclopropylmethyl-amide | C1(CC1)CNC(=O)C=1C(=C(C2C(N=C(S2)SC)C1)Cl)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C23H19Cl2F3N6O2S2
